US05700802
Step 3: 3-(4-(4-Chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)methylfuro[2,3-b]pyridine
3-Hydroxymethylfuro[2,3-b]pyridine (101.5 mg, 0.681 mmol) was treated with thionyl chloride (2 ml) and the solution stirred at room temperature for an hour. The mixture was concentrated in vacuo, toluene added (5 ml) and evaporated to dryness. The residue was dissolved in anhydrous dimethylformamide (5 ml), potassium carbonate (0.47 g, 3.40 mmol) and 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride (173.3 mg, 0.753 mmol) were added and the mixture stirred at room temperature, under nitrogen, overnight (19 hours). The reaction mixture was poured into water (50 ml) and extracted with ethyl acetate (2×25 ml). The extracts were washed with brine (25 ml), combined, dried (MgSO4) and the residue after evaporation purified by flash chromatography, eluting with 1:1 then 2:1 ethyl acetate/hexane, to afford the title compound (118.3 mg, 54%) as a pale yellow solid. Recrystallisation from ethyl acetate/hexane gave yellow plates, m.p. 115.5°-116.5° C.; (Found: C, 70.06; H, 5.19; N, 8.52. C19H17ClN2O requires C, 70.26; H, 5.28; N, 8.62%); δH (CDCl3) 2.54 (2H, br s, tetrahydropyridinyl CH2), 2.78 (2H, t, J 5.6 Hz, tetrahydropyridinyl CH2), 3.23 (2H, m, tetrahydropyridinyl CH2), 3.78 (2H, s, ArCH2N), 6.06 (1H, t, J 3.5 Hz, tetrahydropyridinyl CH), 7.21-7.32 (5H, m, ArH), 7.68 (1H, s, 2-H), 8.12 (1H, dd, J 7.6, 1.7 Hz, 4-H), 8.34 (1H, dd, J 4.8, 1.7 Hz, 6-H); m/z (ES+) 325/327 (M+1)+.

reactant | 3-Hydroxymethylfuro[2,3-b]pyridine | 0.681 mmol, 101.5 mg | OCC1=COC2=NC=CC=C21 | C8H7NO2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium carbonate | 3.40 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.753 mmol, 173.3 mg | Cl.ClC1=CC=C(C=C1)C=1CCNCC1
solvent | water | 50 ml | O | H2O
product | 3-(4-(4-Chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)methylfuro[2,3-b]pyridine | 118.3 mg, 54% | ClC1=CC=C(C=C1)C=1CCN(CC1)CC1=COC2=NC=CC=C21 | C19H17ClN2O
